US07582629B2
tert-Butyl 6-[(2-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]-3,4-dihydroisoquinoline-2(1H)-carboxylate
A mixture of 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (1.000 g, 3.336 mmol), tert-butyl 6-amino-3,4-dihydroisoquinoline-2(1H)-carboxylate (0.828 g, 3.336 mmol) and TEA (0.460 ml, 3.33 gmmol) in dry MeCN (5 ml) was heated in a microwave reactor at 120° C. for 35 mins, 140° C. for 20 mins and 160° C. for 45 mins.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 3.336 mmol, 1.000 g | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | tert-butyl 6-amino-3,4-dihydroisoquinoline-2(1H)-carboxylate | 3.336 mmol, 0.828 g | NC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C14H20N2O2
solvent | MeCN | 5 ml | CC#N | C2H3N
product | tert-Butyl 6-[(2-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]-3,4-dihydroisoquinoline-2(1H)-carboxylate | C(CCC)N1S(C(=C(C1=O)NC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)(=O)=O | C27H33N3O5S
